US05658489
In a four necked flask equipped with a thermometer and a stirrer, 1-(4-octyloxylphenyl)-2-(4-bromo-3-fluorophenyl)acetylene (4.8 g, 0.012 mol), tetrakis(triphenylphosphine)palladium (0.23 g, 0.2 mmol), toluene (50 ml), sodium carbonate (10.6 g, 0.1 mol) and water (90 ml) were charged. Then, to the mixture, E-1-nonenyl-dihydroxyborane (2.5 g, 0.015 mol) was added and reacted at a temperature of 80° to 85° C. for 6 hours. After cooling the reaction mixture, the aqueous layer was separated off, and the organic layer was washed with water. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 1-(4-octyloxyphenyl)-2-[4-(1-trans-nonenyl)-3-fluorophenyl]acetylene (3.9 g). Yield: 73%.

reactant | 1-(4-octyloxylphenyl)-2-(4-bromo-3-fluorophenyl)acetylene | 0.012 mol, 4.8 g | C(CCCCCCC)OC1=CC=C(C=C1)C#CC1=CC(=C(C=C1)Br)F | C22H24BrFO
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 0.1 mol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | E-1-nonenyl-dihydroxyborane | 0.015 mol, 2.5 g | C(=C\CCCCCCC)/B(O)O | C9H19BO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 90 ml | O | H2O
product | 1-(4-octyloxyphenyl)-2-[4-(1-trans-nonenyl)-3-fluorophenyl]acetylene | 3.9 g, Yield: 73% | C(CCCCCCC)OC1=CC=C(C=C1)C#CC1=CC(=C(C=C1)\C=C\CCCCCCC)F | C31H41FO
